US08304557B2
1,3-dimethyl-N-{2-methyl-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
In the same manner as in Reference Example 4 and using N-{5-[(6-aminopyridin-3-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (2.61 g, 7.75 mmol), p-toluenesulfonyl chloride (1.77 g, 9.31 mmol) and pyridine (15 mL) as starting materials, the title compound (2.92 g, 77%) was obtained as a white solid.

reactant | N-{5-[(6-aminopyridin-3-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 7.75 mmol, 2.61 g | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)C | C18H19N5O2
reactant | p-toluenesulfonyl chloride | 9.31 mmol, 1.77 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 1,3-dimethyl-N-{2-methyl-5-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 2.92 g, 77% | CN1N=C(C=C1C(=O)NC1=C(C=CC(=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C)C | C25H25N5O4S
